US06174877B1
2-Cyano-N-(2-pyridylmethyl)acetamide
Cyanoacetic acid (8.51 g) was dissolved in dichloromethane (400 ml). To the solution was added 2-aminomethylpyridine (10.81 g). The mixture was stirred for a while, to which was then added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (19.17 g). The mixture was stirred for 15 minutes at 25° C. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate (200 ml). The mixture was shaken and left standing. The.aqueous layer was subjected to extraction with ethyl acetate (200 ml) three times. The organic layers were combined and dried over anhydrous magnesium sulfate, followed by concentration to afford the title compound (15.51 g).

reactant | Cyanoacetic acid | 8.51 g | C(#N)CC(=O)O | C3H3NO2
reactant | 2-aminomethylpyridine | 10.81 g | NCC1=NC=CC=C1 | C6H8N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 19.17 g | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogencarbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-Cyano-N-(2-pyridylmethyl)acetamide | 15.51 g | C(#N)CC(=O)NCC1=NC=CC=C1 | C9H9N3O
